US07553969B1
To a solution of N-formyl-Tyr(3-tBu)-OMe (23.8 g, 85.3 mmol) in THF (400 ml), 1.0M borane-THF complex (170 ml) was added dropwise under cooling with ice over 30 min. The mixture was stirred for 20 min., mixed with methanol (50 ml) and further stirred for 30 min. The reaction mixture was mixed with 33% hydrobromic acid/acetic acid (31 ml) and stirred for 2 hours. The mixture was neutralized by saturated aqueous NaHCO3 under cooling with ice and extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure. The thus obtained residue was subjected to silica gel column chromatography (developing solvent: chloroform:methanol=20:1), giving N-Me-Tyr(3-tBu)-OMe (20.3 g, 90%).

reactant | N-formyl-Tyr(3-tBu)-OMe | 85.3 mmol, 23.8 g | N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)OC)C=O | C15H21NO4
reactant | methanol | 50 ml | CO | CH4O
reactant | hydrobromic acid acetic acid | 31 ml | Br.C(C)(=O)O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | N-Me-Tyr(3-tBu)-OMe | 20.3 g, 90% | N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)OC)C | C15H23NO3
